US07351719B2
Z35b) 3-chloro-4-diethylaminomethyl-phenylamine
A suspension of 0.700 g (2.884 mmol) (2-chloro-4-nitro-benzyl)-diethyl-amine (Z35a) and 0.400 g Raney nickel in 20 mL THF was hydrogenated for 7.5 h at RT and 25 psi. The catalyst was filtered off and the filtrate was evaporated down i. vac. The crude product was purified by column chromatography (Alox, neutral, act. II-III, petroleum ether/EtOAc 4:1).

reactant | (2-chloro-4-nitro-benzyl)-diethyl-amine | 2.884 mmol, 0.700 g | ClC1=C(CN(CC)CC)C=CC(=C1)[N+](=O)[O-] | C11H15ClN2O2
catalyst | Raney nickel | 0.400 g | [Ni] | Ni
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-chloro-4-diethylaminomethyl-phenylamine | ClC=1C=C(C=CC1CN(CC)CC)N | C11H17ClN2
